US09227978B2
N-(5-bromo-4-chloro-2-methoxybenzyl)-1-(2,4-dimethoxyphenyl)methanamine
The solution of 5-bromo-4-chloro-2-methoxybenzaldehyde (300 mg, 1.2 mmol) and 2,4-dimethoxybenzyl amine (167 mg, 1.2 mmol) in MeOH/DCM (4:1, 10 mL) was stirred at room temperature for 5 h. To this mixture, NaBH4 (100 mg, 13 mmol) was added in two portions. The mixture stirred for 1 h and then partitioned between DCM and water. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford the desired product. The crude product was used directly in the next step without further purification.

reactant | 5-bromo-4-chloro-2-methoxybenzaldehyde | 1.2 mmol, 300 mg | BrC=1C(=CC(=C(C=O)C1)OC)Cl | C8H6BrClO2
reactant | 2,4-dimethoxybenzyl amine | 1.2 mmol, 167 mg | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | NaBH4 | 13 mmol, 100 mg | [BH4-].[Na+]
solvent | MeOH DCM | 10 mL | CO.C(Cl)Cl
product | N-(5-bromo-4-chloro-2-methoxybenzyl)-1-(2,4-dimethoxyphenyl)methanamine | BrC=1C(=CC(=C(CNCC2=C(C=C(C=C2)OC)OC)C1)OC)Cl | C17H19BrClNO3
